US09238656B2
(1S,2S,3R,4R)-3-[6-Bromo-2-(4-chloro-2-dimethylamino-thiazol-5-yl)-3H-imidazo[4,5-b]pyridin-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (Compound CLV)
In a similar fashion to Compound CXXV, (1S,2S,3R,4R)-3-(2,3-Diamino-5-bromo-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (75.00 mg, 0.2553 mmol), 4-Chloro-2-dimethylamino-thiazole-5-carbaldehyde (53.5 mg, 0.281 mmol), and Ammonium acetate (39.4 mg, 0.511 mmol) were reacted to produce 36.84 mg (33%) of the title compound. (300 MHz, DMSO-d6) 12.56 (s, 1H), 8.00 (s, 1H), 7.73 (s, 1H), 7.18 (m, 2H), 6.34 (s, 2H), 5.04 (t, J=17 Hz, 8.5 Hz, 1H), 3.11 (s, 6H), 2.87 (s, 1H), 2.75 (s, 1H), 2.58 (s, 1H), 2.19 (d, J=8 Hz, 1H), 1.36 (d, J=8 Hz, 1H). MS=509 (M+H), HPLC: 2.39 min. (G Method).

reactant | (1S,2S,3R,4R)-3-(2,3-Diamino-5-bromo-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 0.2553 mmol, 75.00 mg | NC1=NC=C(C(=C1N)N[C@H]1[C@H]([C@@H]2C=C[C@H]1C2)C(=O)N)Br | C13H16BrN5O
reactant | 4-Chloro-2-dimethylamino-thiazole-5-carbaldehyde | 0.281 mmol, 53.5 mg | ClC=1N=C(SC1C=O)N(C)C | C6H7ClN2OS
reactant | Ammonium acetate | 0.511 mmol, 39.4 mg | C(C)(=O)[O-].[NH4+]
product | (1S,2S,3R,4R)-3-[6-Bromo-2-(4-chloro-2-dimethylamino-thiazol-5-yl)-3H-imidazo[4,5-b]pyridin-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 36.84 mg, 33% | BrC=1C(=C2C(=NC1)NC(=N2)C2=C(N=C(S2)N(C)C)Cl)N[C@H]2[C@H]([C@@H]1C=C[C@H]2C1)C(=O)N | C19H19BrClN7OS
